US06348474B1
3-(2,4-Dichlorobenzyl)-7-(methoxycarbonyl)-1-methyl-2,4(1H,3H)-quinazolinedione
A mixture of 3-(2,4-dichlorobenzyl)-7-(methoxycarbonyl)-2,4-(1H,3H)-quinazolinedione (2.30 g), methyl iodide (2.13 g) and potassium carbonate (2.07 g) in acetone (30 ml) was heated under reflux for 2 hr. After cooling, the reaction mixture was concentrated, and the residue was washed with water (60 ml) and methyl t-butyl ether (20 ml) and dried to give the objective compound (2.25 g) as white crystals.

reactant | 3-(2,4-dichlorobenzyl)-7-(methoxycarbonyl)-2,4-(1H,3H)-quinazolinedione | 2.30 g | ClC1=C(CN2C(NC3=CC(=CC=C3C2=O)C(=O)OC)=O)C=CC(=C1)Cl | C17H12Cl2N2O4
reactant | methyl iodide | 2.13 g | CI | CH3I
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3-(2,4-Dichlorobenzyl)-7-(methoxycarbonyl)-1-methyl-2,4(1H,3H)-quinazolinedione | 2.25 g | ClC1=C(CN2C(N(C3=CC(=CC=C3C2=O)C(=O)OC)C)=O)C=CC(=C1)Cl | C18H14Cl2N2O4
